US05672599
b) (S)-2-(Acetylthio)-3-cyclohexylpropanoic acid, dicyclhexylamine salt
To a stirred slurry of potassium thioacetate (1.07 g., 9.36 mmol.) in dry acetonitrile (15 ml.) at 0° C. under argon was added a solution of (R)-2-bromo-3-cyclohexylpropanoic acid (2.20 g., 9.36 mmol.) in acetonitrile (3 ml.) over 10 minutes. The reaction was warmed to room temperature and stirred 16 hours. The resulting slurry was filtered and evaporated. The residue was redissolved in ethyl acetate, washed once with 5% potassium bisulfate solution, dried (sodium sulfate) and evaporated. The oily yellow residue (2.21 g.) was dissolved in ether and treated with a solution of dicyclohexylamine (1.8 ml., 9.0 mmol.) in 5 ml. of ether. Scratching the flask surface with a glass rod provided 2.38 g. of white crystalline title product; m.p. 159°-161° C., [α]D =-41.2° (c=1.0, chloroform).

reactant | potassium thioacetate | 9.36 mmol, 1.07 g | C(C)(=S)[O-].[K+]
reactant | (R)-2-bromo-3-cyclohexylpropanoic acid | 9.36 mmol, 2.20 g | Br[C@@H](C(=O)O)CC1CCCCC1 | C9H15BrO2
reactant | dicyclohexylamine | 9.0 mmol, 1.8 ml | C1(CCCCC1)NC1CCCCC1 | C12H23N
reactant | ether | CCOCC | C4H10O
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
solvent | acetonitrile | 3 ml | C(C)#N | C2H3N
product | (S)-2-(Acetylthio)-3-cyclohexylpropanoic acid | C(C)(=O)S[C@H](C(=O)O)CC1CCCCC1 | C11H18O3S
